US08492582B2
Trifluoroacetic acid (1.0 mL) was added to a chloroform (2.0 mL) solution of the obtained methyl 2-(2-(benzyloxy)-5-(1-(tert-butoxycarbonyl)piperidin-4-yl)benzamido)-4-phenylbenzoate (0.19 g), followed by stirring at room temperature for 1 hour and 30 minutes. The solvent was evaporated under reduced pressure, and water was added to the residue. After adjusting the pH to 7.4 with a saturated aqueous solution of sodium bicarbonate, chloroform was added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 0.15 g of methyl 2-(2-(benzyloxy)-5-(piperidin-4-yl)benzamido)-4-phenylbenzoate as a white solid.

reactant | Trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 2-(2-(benzyloxy)-5-(1-(tert-butoxycarbonyl)piperidin-4-yl)benzamido)-4-phenylbenzoate | 0.19 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C38H40N2O6
solvent | chloroform | 2.0 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-(2-(benzyloxy)-5-(piperidin-4-yl)benzamido)-4-phenylbenzoate | 0.15 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1CCNCC1 | C33H32N2O4
